US05510509
Diethyl cyclopropane-1,1-dicarboxylate by the method of the present invention
The apparatus described in Example 1 was successively charged with 320 g diethyl malonate (2.0 mols), 1000 ml dimethylformamide, 1308 g of 1,2-dichloroethane (13.2 mols) and 664 g (4.8 mols) of finely comminuted potassium carbonate. While thoroughly stirring, the mixture was heated to 115° C., whereupon release of carbon dioxide and separation of water commenced. Over a period of 3 hours, another 320 g of diethyl malonate (2.0 mols) were metered into the reaction vessel through a dropping funnel. After 6 hours, when no more water separated out, the reaction was complete.

reactant | diethyl malonate | 2.0 mols, 320 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,2-dichloroethane | 13.2 mols, 1308 g | ClCCCl | C2H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | diethyl malonate | 2.0 mols, 320 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | water | O | H2O
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
product | Diethyl cyclopropane-1,1-dicarboxylate | C1(CC1)(C(=O)OCC)C(=O)OCC | C9H14O4
